### PR TITLE
[Merged by Bors] - feat(Data/Sum/Basic): Add `LiftRel` lemmas.

### PR DESCRIPTION
**Pull request by wrenna-robson**
Add lemmas that allow `IsLeft`/`IsRight` conclusions from `LiftRel` and allow for apply functions.

This is necessary because `cases` cannot run on statements like `LiftRel r s (f t) y`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Sum/Basic.lean [hunk 1]
```diff
@@ -464,6 +464,54 @@ theorem liftRel_swap_iff : LiftRel s r x.swap y.swap ↔ LiftRel r s x y :=
     exact h.swap, LiftRel.swap⟩
 #align sum.lift_rel_swap_iff Sum.liftRel_swap_iff
 
+theorem liftRel_def : LiftRel r s x y ↔ (∃ a, x = inl a ∧ ∃ c, y = inl c ∧ r a c) ∨
+(∃ b, x = inr b ∧ ∃ d, y = inr d ∧ s b d) := by
```
Comment (alexjbest) [inline Mathlib/Data/Sum/Basic.lean:468]:
```suggestion
    (∃ b, x = inr b ∧ ∃ d, y = inr d ∧ s b d) := by
```

File: Mathlib/Data/Sum/Basic.lean [hunk 2]
```diff
@@ -464,6 +464,54 @@ theorem liftRel_swap_iff : LiftRel s r x.swap y.swap ↔ LiftRel r s x y :=
...
+refine' ⟨(fun H ↦ _), (fun H ↦ _)⟩
+· rcases H with (hac | hbd)
+  · exact Or.inl ⟨_, rfl, _, rfl, hac⟩
+  · exact Or.inr ⟨_, rfl, _, rfl, hbd⟩
+· rcases H with (⟨_, rfl, _, rfl, hac⟩ | ⟨_, rfl, _, rfl, hbd⟩)
+  · exact liftRel_inl_inl.mpr hac
+  · exact liftRel_inr_inr.mpr hbd
```
Comment (alexjbest) [inline Mathlib/Data/Sum/Basic.lean:475]:
```suggestion
  refine' ⟨(fun H ↦ _), (fun H ↦ _)⟩
  · rcases H with (hac | hbd)
    · exact Or.inl ⟨_, rfl, _, rfl, hac⟩
    · exact Or.inr ⟨_, rfl, _, rfl, hbd⟩
  · rcases H with (⟨_, rfl, _, rfl, hac⟩ | ⟨_, rfl, _, rfl, hbd⟩)
    · exact liftRel_inl_inl.mpr hac
    · exact liftRel_inr_inr.mpr hbd
```

File: Mathlib/Logic/Equiv/Basic.lean [hunk 3]
```diff
@@ -374,6 +374,21 @@ theorem sumCongr_refl : sumCongr (Equiv.refl α) (Equiv.refl β) = Equiv.refl (S
 
 end Perm
 
+section LiftRel
+
+variable {r : α → γ → Prop} {s : β → δ → Prop} {a : α} {b : β} {c : γ} {d : δ}
+  {x : Sum α β} {y : Sum γ δ} {e : Sum α β ≃ Sum γ δ} {f : Sum γ δ ≃ Sum α β}
```
Comment (alexjbest) [inline Mathlib/Logic/Equiv/Basic.lean:380]: Putting e and f in the variable line seems a bit unnecessary if they are used only once. Its probably clearer to someone reading the file not to do this

File: Mathlib/Data/Sum/Basic.lean [hunk 4]
```diff
@@ -464,6 +464,54 @@ theorem liftRel_swap_iff : LiftRel s r x.swap y.swap ↔ LiftRel r s x y :=
...
+
+theorem isLeft_of_liftRel (h : LiftRel r s x y) : x.isLeft = y.isLeft := by
+  cases h <;> rfl
+
+theorem isRight_eq_of_liftRel (h : LiftRel r s x y) : x.isRight = y.isRight := by
+  rw [← Sum.not_isLeft, isLeft_of_liftRel h, Sum.not_isLeft]
+
+theorem isLeft_of_liftRel_inl_fst (h : LiftRel r s (inl a) y) : y.isLeft :=
+  (isLeft_of_liftRel h).symm
```
Comment (alexjbest) [inline Mathlib/Data/Sum/Basic.lean:484]: Indentation here and below is also quite inconsistent, I'd go with no indent for a term mode proof

File: Mathlib/Data/Sum/Basic.lean [hunk 5]
```diff
@@ -123,11 +123,11 @@ variable {x y : Sum α β}
   cases x <;> simp only [getRight?, isLeft, eq_self_iff_true]
 #align sum.get_right_eq_none_iff Sum.getRight?_eq_none_iff
 
-@[simp] lemma getLeft?_eq_some_iff {a : α} : x.getLeft? = a ↔ x = inl a := by
+@[simp] theorem getLeft?_eq_some_iff {a : α} : x.getLeft? = a ↔ x = inl a := by
```
Comment (alexjbest) [inline Mathlib/Data/Sum/Basic.lean:126]: why this change?

Comment (linesthatinterlace) [reply Mathlib/Data/Sum/Basic.lean:126]: Oh, it will have been an auto-replace. I was told we don't use lemma?

Comment (linesthatinterlace) [reply Mathlib/Data/Sum/Basic.lean:126]: Really I should make this change in my other PR.

Comment (alexjbest) [reply Mathlib/Data/Sum/Basic.lean:126]: If you have a link to that I'd like to read the discussion.
My understanding was simply that mathport didn't use lemma so there are mostly "theorem"s in mathlib, but `mathlib` does add the lemma macro so it seems its up to personal preference to use it or not.
I just worry that by changing it we get into a weird state where some people are adding lemmas and other people changing them to theorems and its a lot of inessential changes. So it would be good to have either lemma banned across mathlib and fixed all at once or leave things as they are

Comment (linesthatinterlace) [reply Mathlib/Data/Sum/Basic.lean:126]: Unfortunately it was on Kevin's discord. Though I also had such a comment in another PR recently...

I don't think there's any clear guidance currently. I don't understand what the criteria are.

File: Mathlib/Data/Sum/Basic.lean [hunk 6]
```diff
@@ -464,6 +464,54 @@ theorem liftRel_swap_iff : LiftRel s r x.swap y.swap ↔ LiftRel r s x y :=
     exact h.swap, LiftRel.swap⟩
 #align sum.lift_rel_swap_iff Sum.liftRel_swap_iff
 
+theorem liftRel_def : LiftRel r s x y ↔ (∃ a, x = inl a ∧ ∃ c, y = inl c ∧ r a c) ∨
+(∃ b, x = inr b ∧ ∃ d, y = inr d ∧ s b d) := by
+refine' ⟨(fun H ↦ _), (fun H ↦ _)⟩
+· rcases H with (hac | hbd)
+  · exact Or.inl ⟨_, rfl, _, rfl, hac⟩
```
Comment (alexjbest) [inline Mathlib/Data/Sum/Basic.lean:471]: This is very close to the lemma `LiftRel_iff` autogenerated by doing
`import Mathlib.Tactic.MkIffOfInductiveProp` and adding `@[mk_iff]` to `inductive LiftRel`. Have you considered using that either instead of this or to prove this more easily

File: Mathlib/Data/Sum/Basic.lean (hunk 5 above)
Comment (alexjbest) [reply Mathlib/Data/Sum/Basic.lean:126]: Yeah in that case I think its better to just leave existing lines as they are then, until there becomes a clear consensus

File: Mathlib/Data/Sum/Basic.lean (hunk 6 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Sum/Basic.lean:471]: Oh I didn't know about that. That's a nice feature and really the kinda thing I was looking for. (I don't use this in the rest of the file really but I figured we should have it.)

Comment (alexjbest) [reply Mathlib/Data/Sum/Basic.lean:471]: Indeed, its a feature I think is relatively not well known! So  I think there are many more places in the library it could be useful also but isnt yet

Comment (linesthatinterlace) [reply Mathlib/Data/Sum/Basic.lean:471]: I think a lot of the time you don't need it (as you see from the rest of the proofs) but yeah wow that should really be a gimmee. I find in Mathlib4 finding good tactic documentation is much harder.

File: Mathlib/Data/Sum/Basic.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Data/Sum/Basic.lean]: It seems we're moving to a situation where most declarations are `lemma` and important ones are `theorem`.

Comment (linesthatinterlace) [reply Mathlib/Data/Sum/Basic.lean]: I'm not going to change my PR for this though. I already changed it back.

File: Mathlib/Logic/Equiv/Basic.lean [hunk 7]
```diff
@@ -374,6 +374,21 @@ theorem sumCongr_refl : sumCongr (Equiv.refl α) (Equiv.refl β) = Equiv.refl (S
 
 end Perm
 
+section LiftRel
+
+variable {r : α → γ → Prop} {s : β → δ → Prop} {a : α} {b : β} {c : γ} {d : δ}
+  {x : Sum α β} {y : Sum γ δ}
+
+lemma liftRel_self_apply_iff_liftRel_apply_symm_self {e : Sum α β ≃ Sum γ δ} :
+(∀ x, LiftRel r s x (e x)) ↔ ∀ y, LiftRel r s (e.symm y) y := by
```
Comment (YaelDillies) [inline Mathlib/Logic/Equiv/Basic.lean:383]:
```suggestion
  (∀ x, LiftRel r s x (e x)) ↔ ∀ y, LiftRel r s (e.symm y) y := by
```

File: Mathlib/Logic/Equiv/Basic.lean [hunk 8]
```diff
@@ -374,6 +374,21 @@ theorem sumCongr_refl : sumCongr (Equiv.refl α) (Equiv.refl β) = Equiv.refl (S
...
+simp_rw [e.forall_congr_left', apply_symm_apply]
```
Comment (YaelDillies) [inline Mathlib/Logic/Equiv/Basic.lean:384]: Hmm, I'm not sure how much I like specialising `Equiv.forall_congr_left'` to every possible forall.

File: Mathlib/Data/Sum/Basic.lean [hunk 9]
```diff
@@ -464,6 +466,70 @@ theorem liftRel_swap_iff : LiftRel s r x.swap y.swap ↔ LiftRel r s x y :=
...
+exists_of_liftRel_left_isLeft h₁ (isLeft_eq_of_liftRel h₁ ▸ h₂)
+
+theorem exists_of_liftRel_left_isRight (h₁ : LiftRel r s x y) (h₂ : x.isRight) :
+∃ b d, s b d ∧ x = inr b ∧ y = inr d := by
+  rcases (isRight_iff.mp h₂) with ⟨_, rfl⟩
+  simp only [liftRel_iff, false_and, and_false, exists_false, false_or] at h₁
+  exact h₁
+
+theorem exists_of_liftRel_right_isRight (h₁ : LiftRel r s x y) (h₂ : y.isRight) :
+∃ b d, s b d ∧ x = inr b ∧ y = inr d :=
```
Comment (YaelDillies) [inline Mathlib/Data/Sum/Basic.lean:530]:
```suggestion
  ∃ b d, s b d ∧ x = inr b ∧ y = inr d :=
```

File: Mathlib/Logic/Equiv/Basic.lean (hunk 8 above)
Comment (linesthatinterlace) [reply Mathlib/Logic/Equiv/Basic.lean:384]: That's very fair. It's just the kind of thing that tends to come up multiple times in a proof.

Comment (linesthatinterlace) [reply Mathlib/Logic/Equiv/Basic.lean]: In the name of expediting the rest of this PR, I have removed this change.

File: Mathlib/Data/Sum/Basic.lean [hunk 10]
```diff
@@ -464,6 +466,70 @@ theorem liftRel_swap_iff : LiftRel s r x.swap y.swap ↔ LiftRel r s x y :=
...
 #align sum.lift_rel_swap_iff Sum.liftRel_swap_iff
 
+theorem isLeft_eq_of_liftRel (h : LiftRel r s x y) : x.isLeft = y.isLeft := by
+  cases h <;> rfl
+
+theorem isRight_eq_of_liftRel (h : LiftRel r s x y) : x.isRight = y.isRight := by
+  rw [← Sum.not_isLeft, isLeft_eq_of_liftRel h, Sum.not_isLeft]
+
+theorem isLeft_eq_of_liftRel_inl_fst (h : LiftRel r s (inl a) y) : y.isLeft :=
+(isLeft_eq_of_liftRel h).symm
```
Comment (urkud) [inline Mathlib/Data/Sum/Basic.lean:476]: Here and below:
```suggestion
  (isLeft_eq_of_liftRel h).symm
```

File: Mathlib/Data/Sum/Basic.lean [hunk 11]
```diff
@@ -464,6 +466,70 @@ theorem liftRel_swap_iff : LiftRel s r x.swap y.swap ↔ LiftRel r s x y :=
...
+(isRight_eq_of_liftRel h).symm
+
+theorem liftRel_of_left (h : ∃ a c, r a c ∧ x = inl a ∧ y = inl c) : LiftRel r s x y :=
+(Sum.liftRel_iff ..).mpr (Or.inl h)
+
+theorem liftRel_of_right (h : ∃ b d, s b d ∧ x = inr b ∧ y = inr d) : LiftRel r s x y :=
+(Sum.liftRel_iff ..).mpr (Or.inr h)
+
+theorem exists_of_liftRel_left_isLeft (h₁ : LiftRel r s x y) (h₂ : x.isLeft) :
+∃ a c, r a c ∧ x = inl a ∧ y = inl c := by
```
Comment (urkud) [inline Mathlib/Data/Sum/Basic.lean:514]:
```suggestion
    ∃ a c, r a c ∧ x = inl a ∧ y = inl c := by
```

File: Mathlib/Data/Sum/Basic.lean (hunk 10 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Sum/Basic.lean:476]: Huh. I was sure I had recieved advice that said when I was giving a direct term (rather than a tactic proof) I shouldn't indent.

**Comment by linesthatinterlace** [comment]
Finally found time to clean this PR up and fix the merge conflict.

File: Mathlib/Data/Sum/Basic.lean [hunk 12]
```diff
@@ -201,6 +202,75 @@ section LiftRel
 #align sum.lift_rel.swap Sum.LiftRel.swap
 #align sum.lift_rel_swap_iff Sum.liftRel_swap_iff
 
+mk_iff_of_inductive_prop Sum.LiftRel Sum.liftRel_iff
+
+variable {r : α → γ → Prop} {s : β → δ → Prop} {x : Sum α β} {y : Sum γ δ}
+  {a : α} {b : β} {c : γ} {d : δ}
+
+theorem isLeft_eq_of_liftRel (h : LiftRel r s x y) : x.isLeft = y.isLeft := by
```
Comment (YaelDillies) [inline Mathlib/Data/Sum/Basic.lean:210]:
```suggestion
theorem LiftRel.isLeft_congr (h : LiftRel r s x y) : x.isLeft = y.isLeft := by
```
but also ugh that would be nicer as
```suggestion
theorem LiftRel.isLeft_congr (h : LiftRel r s x y) : x.IsLeft ↔ y.IsLeft := by
```

File: Mathlib/Data/Sum/Basic.lean [hunk 13]
```diff
@@ -201,6 +202,75 @@ section LiftRel
...
+  cases h <;> rfl
+
+theorem isRight_eq_of_liftRel (h : LiftRel r s x y) : x.isRight = y.isRight := by
+  cases h <;> rfl
+
+theorem isLeft_eq_of_liftRel_inl_fst (h : LiftRel r s (inl a) y) : y.isLeft :=
```
Comment (YaelDillies) [inline Mathlib/Data/Sum/Basic.lean:216]:
```suggestion
theorem LiftRell.isLeft_right (h : LiftRel r s (inl a) y) : y.isLeft :=
```

File: Mathlib/Data/Sum/Basic.lean [hunk 14]
```diff
@@ -201,6 +202,75 @@ section LiftRel
...
+  (isLeft_eq_of_liftRel h).symm
+
+theorem isLeft_eq_of_liftRel_inl_snd (h : LiftRel r s x (inl c)) : x.isLeft :=
```
Comment (YaelDillies) [inline Mathlib/Data/Sum/Basic.lean:219]:
```suggestion
theorem LiftRel.isLeft_left (h : LiftRel r s x (inl c)) : x.isLeft :=
```
etc

File: Mathlib/Data/Sum/Basic.lean [hunk 15]
```diff
@@ -201,6 +202,75 @@ section LiftRel
...
+  isRight_of_liftRel_inr_fst h
+
+theorem isRight_apply_of_inr_snd (h : LiftRel r s (f t) (inr d)) : (f t).isRight :=
+  isRight_of_liftRel_inr_snd h
+
+theorem isLeft_apply_eq_of_LiftRel_apply (h : LiftRel r s (f t) y) : (f t).isLeft = y.isLeft :=
+  isLeft_eq_of_liftRel h
+
+theorem isRight_apply_eq_of_LiftRel_apply (h : LiftRel r s x (g k)) :
+    (g k).isRight = x.isRight := (isRight_eq_of_liftRel h).symm
```
Comment (YaelDillies) [inline Mathlib/Data/Sum/Basic.lean:246]: Sorry, why do we need these? Are they not literally syntactical specialisations of the previous?

File: Mathlib/Data/Sum/Basic.lean [hunk 16]
```diff
@@ -201,6 +202,75 @@ section LiftRel
...
+theorem liftRel_of_right (h : ∃ b d, s b d ∧ x = inr b ∧ y = inr d) : LiftRel r s x y :=
+  (Sum.liftRel_iff ..).mpr (Or.inr h)
+
+theorem exists_of_liftRel_left_isLeft (h₁ : LiftRel r s x y) (h₂ : x.isLeft) :
+    ∃ a c, r a c ∧ x = inl a ∧ y = inl c := by
+  rcases (isLeft_iff.mp h₂) with ⟨_, rfl⟩
+  simp only [liftRel_iff, false_and, and_false, exists_false, or_false] at h₁
+  exact h₁
+
+theorem exists_of_liftRel_right_isLeft (h₁ : LiftRel r s x y) (h₂ : y.isLeft) :
```
Comment (YaelDillies) [inline Mathlib/Data/Sum/Basic.lean:260]:
```suggestion
theorem LiftRel.exists_of_isLeft_right (h₁ : LiftRel r s x y) (h₂ : y.isLeft) :
```

File: Mathlib/Data/Sum/Basic.lean [hunk 17]
```diff
@@ -201,6 +202,75 @@ section LiftRel
...
+    ∃ a c, r a c ∧ x = inl a ∧ y = inl c :=
+  exists_of_liftRel_left_isLeft h₁ (isLeft_eq_of_liftRel h₁ ▸ h₂)
+
+theorem exists_of_liftRel_left_isRight (h₁ : LiftRel r s x y) (h₂ : x.isRight) :
```
Comment (YaelDillies) [inline Mathlib/Data/Sum/Basic.lean:264]:
```suggestion
theorem LiftRel.exists_of_isRight_left (h₁ : LiftRel r s x y) (h₂ : x.isRight) :
```

File: Mathlib/Data/Sum/Basic.lean [hunk 18]
```diff
@@ -201,6 +202,75 @@ section LiftRel
...
+  isLeft_eq_of_liftRel h
+
+theorem isRight_apply_eq_of_LiftRel_apply (h : LiftRel r s x (g k)) :
+    (g k).isRight = x.isRight := (isRight_eq_of_liftRel h).symm
+
+theorem liftRel_of_left (h : ∃ a c, r a c ∧ x = inl a ∧ y = inl c) : LiftRel r s x y :=
+  (Sum.liftRel_iff ..).mpr (Or.inl h)
+
+theorem liftRel_of_right (h : ∃ b d, s b d ∧ x = inr b ∧ y = inr d) : LiftRel r s x y :=
+  (Sum.liftRel_iff ..).mpr (Or.inr h)
```
Comment (YaelDillies) [inline Mathlib/Data/Sum/Basic.lean:252]: Do you actually need these in practice? because you can just eliminate the existential and then this is just `LiftRel.inl` and `LiftRel.inr` again.

File: Mathlib/Data/Sum/Basic.lean (hunk 15 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Sum/Basic.lean:246]: You'd think that, I certainly did, but my recollection for when I was working on this back in September is that for some reason the typechecker couldn't prove things of this form using those lemmas. I can see if that has changed though.

File: Mathlib/Data/Sum/Basic.lean (hunk 18 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Sum/Basic.lean:252]: No I think you're probably right, I just felt it might be useful to unwrap them. But I'm not wedded to them so I'm happy to remove if you think that's better.

File: Mathlib/Data/Sum/Basic.lean (hunk 12 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Sum/Basic.lean:210]: Happy to change that - in the time since I made this and now, Lean no longer seems to expand bools to "Bool = true" in the same way.

File: Mathlib/Data/Sum/Basic.lean (hunk 15 above)
Comment (YaelDillies) [reply Mathlib/Data/Sum/Basic.lean:246]: I would be highly surprised if that were the case! I can understand the difference between having your first set of lemmas and not having any lemma, but I can't imagine that your second set of lemmas gives you anything more than your first set.

File: Mathlib/Data/Sum/Basic.lean (hunk 18 above)
Comment (YaelDillies) [reply Mathlib/Data/Sum/Basic.lean:252]: There might be an argument for having them but they're less clearly useful than the other lemmas in this PR so I think one of two things should happen now:
* either you go back to your project, try deleting the uses of these two lemmas and
  * either it's an awful mess and we keep them in this PR
  * or it's actually fine and we remove them from this PR
* or we remove the lemmas from this PR, merge it, you bump your project to the new mathlib and
  * either you can't remove the uses of the lemmas that didn't make it to mathlib and you open a new PR for them
  * or it's actually fine to only use what made it to mathlib and there's no need to do anything more

File: Mathlib/Data/Sum/Basic.lean (hunk 12 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Sum/Basic.lean:210]: Hmm, it does actually. Well, if you think it's nicer I will change it. The thing is that sometimes you want to transform the expression itself... it's essentially down to which side of `Bool.eq_iff_iff` you prefer. (For what it's worth, changing to iff breaks some of my proofs in the same file.)

Comment (YaelDillies) [reply Mathlib/Data/Sum/Basic.lean:210]: Nono, I meant that I would like  a Prop-valued `IsLeft` instead of the Bool-valued `isLeft`, but that's out of scope for this PR. Just pick the first suggestion :)

File: Mathlib/Data/Sum/Basic.lean (hunk 18 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Sum/Basic.lean:252]: Oh in the end I didn't use these in my project because I wanted to do something in less generality in my specific case. But I still want to introduce it into mathlib in the appropriate generality. I'll remove these for now.

Comment (linesthatinterlace) [reply Mathlib/Data/Sum/Basic.lean:252]: My strategy for integrating my project into mathlib is to do it in stages - I've factored out the stuff that is useful for reasons other than my specific definitions mostly, I'm just slowly PRing them all.

File: Mathlib/Data/Sum/Basic.lean (hunk 15 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Sum/Basic.lean]: You are right! Removed.

File: Mathlib/Data/Sum/Basic.lean (hunk 12 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Sum/Basic.lean]: The iff is better anyway, changed.

File: Mathlib/Data/Sum/Basic.lean [hunk 19]
```diff
@@ -201,6 +204,40 @@ section LiftRel
...
+
+theorem isRight_congr (h : LiftRel r s x y) : x.isRight ↔ y.isRight := by cases h <;> rfl
+
+theorem isLeft_left (h : LiftRel r s x (inl c)) : x.isLeft := by cases h; rfl
+
+theorem isLeft_right (h : LiftRel r s (inl a) y) : y.isLeft := by cases h; rfl
+
+theorem isRight_left (h : LiftRel r s x (inr d)) : x.isRight := by cases h; rfl
+
+theorem isRight_right (h : LiftRel r s (inr b) y) : y.isRight := by cases h; rfl
```
Comment (YaelDillies) [inline Mathlib/Data/Sum/Basic.lean:220]: Mathport completely broke this by adding `#align`s everywhere but in Lean 3 I used to group similar one-line lemmas visually. I still think it's worth doing.
```suggestion
theorem isLeft_congr (h : LiftRel r s x y) : x.isLeft ↔ y.isLeft := by cases h <;> rfl
theorem isRight_congr (h : LiftRel r s x y) : x.isRight ↔ y.isRight := by cases h <;> rfl

theorem isLeft_left (h : LiftRel r s x (inl c)) : x.isLeft := by cases h; rfl
theorem isLeft_right (h : LiftRel r s (inl a) y) : y.isLeft := by cases h; rfl
theorem isRight_left (h : LiftRel r s x (inr d)) : x.isRight := by cases h; rfl
theorem isRight_right (h : LiftRel r s (inr b) y) : y.isRight := by cases h; rfl
```

**Review by YaelDillies — APPROVED** [review]
It's now very clean!

maintainer merge

**Review by eric-wieser — APPROVED** [review]
bors merge
